US06432608B1
To 50 g (0.284 mole) of p-tert-butoxystyrene and 43.8 g (0.284 mole) of cyclohexyl acrylate was added 3 g of 2,2′-azobis(methyl 2-methylpropionate), followed by conducting a polymerization reaction in 1,4-dioxane under nitrogen gas streams at 80° C. for 6 hours. After cooling, the reaction solution was poured in 5000 ml of aqueous methanol solution to precipitate out. Crystal was recovered by filtration and dried under reduced pressure to give 89.2 g of poly(p-tert-butoxystyrene/cyclohexyl acrylate) as white powdery crystal. A weight-average molecular weight of the polymer was about 21000 by GPC measurement using polystyrene as a standard.

reactant | p-tert-butoxystyrene | 0.284 mole, 50 g | C(C)(C)(C)OC1=CC=C(C=C)C=C1 | C12H16O
reactant | cyclohexyl acrylate | 0.284 mole, 43.8 g | C(C=C)(=O)OC1CCCCC1 | C9H14O2
reactant | 2,2′-azobis(methyl 2-methylpropionate) | 3 g | N(=NC(C(=O)[O-])(CC)C)C(C(=O)[O-])(CC)C
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | methanol | 5000 ml | CO | CH4O
product | p-tert-butoxystyrene cyclohexyl acrylate | C(C)(C)(C)OC1=CC=C(C=C)C=C1.C(C=C)(=O)OC1CCCCC1 | InChI=1S/C12H16O.C9H14O2/c1-5-10-6-8-11(9-7-10)13-12(2,3)4;1-2-9(10)11-8-6-4-3-5-7-8/h5-9H,1H2,2-4H3;2,8H,1,3-7H2
